US04195090
A solution of 45 g of crude 3-methyl-2-{[2-phenyl-3-(4-phenyl-2-butyl)-oxazolidin-5-yl]-methoxy}-pyridine in 200 ml of ethanol is hydrolysed with 120 ml of 4 N hydrochloric acid for 3 hours at 20° C. analogously to Example 31, and the mixture is worked up. Distillation in a bulb tube at 140°-150° C./0.04 mm Hg gives 2-[2'-hydroxy-3'-(1-methyl-3-phenyl-propylamino)-propoxy]-3-methyl-pyridine as a light yellow oil.

reactant | 3-methyl-2-{[2-phenyl-3-(4-phenyl-2-butyl)-oxazolidin-5-yl]-methoxy}-pyridine | 45 g | CC=1C(=NC=CC1)OCC1CN(C(O1)C1=CC=CC=C1)C(C)CCC1=CC=CC=C1 | C26H30N2O2
reactant | hydrochloric acid | 4 N, 120 ml | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-[2'-hydroxy-3'-(1-methyl-3-phenyl-propylamino)-propoxy]-3-methyl-pyridine | OC(COC1=NC=CC=C1C)CNC(CCC1=CC=CC=C1)C | C19H26N2O2
